US09278940B2
Preparation of 2-(6-Bromopyridin-2-yl)-5,7-difluoroquinazolin-4(3H)-one (12):
A mixture of 6-bromopicolinaldehyde (2.8 g, 15 mmol), 2-amino-4,6-difluorobenzamide (2.5 g, 10 mmol), p-toluenesulfonic acid (4.2 g, 22 mmol), NaHSO3 (2.6 g, 25 mmol) and DMA (40 mL) was heated at 110° C. for 48 h in a sealed tube. The reaction mixture was cooled to room temperature and partitioned between water and EtOAc (25 mL). The aqueous phase was extracted with EtOAc (2×25 mL). The organic layers were combined, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The product was purified by crystallization (EtOAc) to provide the title compound (500 mg, 15%): 1H NMR (500 MHz, DMSO-d6) δ 11.97 (s, 1H), 8.32 (d, J=7.7, 0.7 Hz, 1H), 8.05-7.96 (m, 1H), 7.91 (dd, J=7.7, 0.7 Hz, 1H), 7.46-7.29 (m, 2H).

reactant | 6-bromopicolinaldehyde | 15 mmol, 2.8 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 2-amino-4,6-difluorobenzamide | 10 mmol, 2.5 g | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
reactant | p-toluenesulfonic acid | 22 mmol, 4.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHSO3 | 25 mmol, 2.6 g | OS(=O)[O-].[Na+]
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
product | 2-(6-Bromopyridin-2-yl)-5,7-difluoroquinazolin-4(3H)-one | 500 mg, 15% | BrC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F | C13H6BrF2N3O
